US08623859B2
1-[3-Fluoro-5-(pyrrolidin-1-ylmethyl)phenyl]-N-methylmethanamine
tert-butyl[3-fluoro-5-(pyrrolidin-1-ylmethyl)benzyl]carbamate (0.72 mmol) was dissolved in anhydrous THF (2 mL) under N2 and the solution was cooled to 0° C. LiAlH4 (1 M in THF, 1.62 mL) was added and the reaction was stirred at between 0° C. and 40° C. for 40 h. The reaction was partitioned between 1:1 saturated aqueous NaHCO3: 30% aqueous Rochelle's salt (20 mL) and DCM (3×15 mL) and the combined organic extracts were dried over MgSO4 and concentrated in vacuo to afford the title compound as a yellow oil. No further purification was required.

reactant | tert-butyl[3-fluoro-5-(pyrrolidin-1-ylmethyl)benzyl]carbamate | 0.72 mmol | C(C)(C)(C)OC(NCC1=CC(=CC(=C1)CN1CCCC1)F)=O | C17H25FN2O2
reactant | LiAlH4 | 1 M, 1.62 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[3-Fluoro-5-(pyrrolidin-1-ylmethyl)phenyl]-N-methylmethanamine | FC=1C=C(C=C(C1)CN1CCCC1)CNC | C13H19FN2
